US09233965B2
To a mixture of 5.2 g (16.5 mmol) of 7-bromo-6-cyclopropyl-3,4-dihydropyrrolo[1,2-a]pyrazine hydrochloride and 6.90 ml (49.5 ml) of triethylamine in 200 ml of dichloromethane at 0° C. are added 2.1 ml (18 mmol) of tert-butyl isocyanate. After stirring for 2 hours, 50 ml of water are added and the product is extracted with dichloromethane. The organic phase is separated out, washed with water, dried over sodium sulfate and concentrated under reduced pressure. The residue is chromatographed on a column of 70 g of silica gel, eluting with a mixture of 5 to 50% ethyl acetate in dichloromethane, to give 4.5 g of N2-tert-butyl-7-bromo-6-cyclopropyl-3,4-dihydropyrrolo[1,2-a]pyrazine-2,8(1H)-dicarboxamide in the form of a white solid after crystallizing from a minimum amount of ethyl acetate, rinsing with diethyl ether and drying.

reactant | 7-bromo-6-cyclopropyl-3,4-dihydropyrrolo[1,2-a]pyrazine hydrochloride | 16.5 mmol, 5.2 g | Cl.BrC=1C=C2N(CCN=C2)C1C1CC1
reactant | triethylamine | 6.90 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyl isocyanate | 18 mmol, 2.1 ml | C(C)(C)(C)N=C=O | C5H9NO
reactant | water | 50 ml | O | H2O
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | N2-tert-butyl-7-bromo-6-cyclopropyl-3,4-dihydropyrrolo[1,2-a]pyrazine-2,8(1H)-dicarboxamide | 4.5 g | C(C)(C)(C)NC(=O)N1CC=2N(CC1)C(=C(C2C(=O)N)Br)C2CC2 | C16H23BrN4O2
